US07157464B2
Synthesis of 1-[4-(4-Chloro-phenyl)-piperazin-1-yl]-2-(3-heptafluoropropyl-5-methyl-4-nitro-pyrazol-1-yl)-ethanone
Protocol T was followed using 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/4, Rf=0.81) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3): δ 6.92–7.02 (m, 2H), 6.82–6.9 (m, 2H), 5.04–5.14 (m, 2H), 3.64–3.82 (m, 4H), 3.06–3.18 (m, 4H), 2.6–2.66 (d, 3H). 13C NMR (400 MHz, CDCl3): 160.4, 146, 144.2, 119.2, 118.2, 52, 50.8, 50.6, 46, 42, 12.2.

reactant | 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole | FC(C(C1=NNC(=C1[N+](=O)[O-])C)(F)F)(C(F)(F)F)F | C7H4F7N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Chloro-phenyl)-piperazin-1-yl]-2-(3-heptafluoropropyl-5-methyl-4-nitro-pyrazol-1-yl)-ethanone | ClC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)[N+](=O)[O-])C(C(C(F)(F)F)(F)F)(F)F)=O | C19H17ClF7N5O3
